US06489344B1
A stirred mixture of NaH (158.4 mg, 6.6 mmol) and ethyl formate (1.07 ml, 13.2 mmol) in Et2O (5 ml) were refluxed under argon for 15 min. Diethyl (2Z)-3-phenylpent-2-ene-1,5-dioate in Et2O (5 ml) was added dropwise to the above solution over 5 min at rt. The reaction was heated to reflux for 12 hours. The heterogeneous yellow mixture was diluted with Et2O (100 ml), washed with sat. NH4Cl (40 ml), half sat. NH4Cl (40 ml), brine (20 ml), dried with Na2SO4, filtered, and concentrated under reduced pressure. The product diethyl (3E)-2-(hydroxymethylene)-3-phenylpent-3-ene-1,5-dioate was obtained in 97% yield and could be used without further purification.

reactant | NaH | 6.6 mmol, 158.4 mg | [H-].[Na+]
reactant | ethyl formate | 13.2 mmol, 1.07 ml | C(=O)OCC | C3H6O2
reactant | Diethyl (2Z)-3-phenylpent-2-ene-1,5-dioate | C1(=CC=CC=C1)\C(=C/C(=O)OCC)\CC(=O)OCC | C15H18O4
solvent | Et2O | 5 ml | CCOCC | C4H10O
solvent | Et2O | 5 ml | CCOCC | C4H10O
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | diethyl (3E)-2-(hydroxymethylene)-3-phenylpent-3-ene-1,5-dioate | 97% yield | OC=C(C(=O)OCC)\C(=C\C(=O)OCC)\C1=CC=CC=C1 | C16H18O5
